US09126998B2
N-(2-Amino-2-ethylbutyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide
70 mg (0.60 mmol) of 2-ethylbutane-1,2-diamine were added to 100 mg (0.30 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid Example 21A, 145 mg (0.45 mmol) of TBTU and 0.13 ml (1.20 mmol) of 4-methylmorpholine in DMF (1.9 ml), and the reaction mixture was stirred at RT overnight. The mixture was then diluted with water/TFA and purified by preparative RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). After concentration, the residue was taken up in dichloromethane and washed twice with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted twice with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered off, concentrated and lyophilized. This gave 110 mg (85% of theory, purity 100%) of the target compound.

reactant | 2-ethylbutane-1,2-diamine | 0.60 mmol, 70 mg | C(C)C(CN)(CC)N | C6H16N2
reactant | 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.30 mmol, 100 mg | FC1=C(COC=2C=3N(C=C(C2)C)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C17H14F2N2O3
reactant | TBTU | 0.45 mmol, 145 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 1.20 mmol, 0.13 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.9 ml | CN(C)C=O | C3H7NO
solvent | water TFA | O.C(=O)(C(F)(F)F)O
product | N-(2-Amino-2-ethylbutyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)(CC)CC | C23H28F2N4O2
